US05153226
(S)-α-Amino-4-(phenylmethoxy)-N-(2,4,6-trifluorophenyl)benzenepropanamide
Employing the method of Example 22, but using (S)-1,1-dimethylethyl[2-oxo-1-[[4-(phenylmethoxy)phenyl]methyl]-2-[(2,4,6-trifluorophenyl)amino]ethyl]carbamate instead of (S)-1,1-dimethylethyl[[2,6-bis(1-Methylethyl)phenyl]amino]-2-oxo-1-[[4-(phenylmethoxy)phenyl]methyl]ethyl]carbamate, the title compound was prepared, mp 80.5°-86.5° C.

reactant | (S)-1,1-dimethylethyl[2-oxo-1-[[4-(phenylmethoxy)phenyl]methyl]-2-[(2,4,6-trifluorophenyl)amino]ethyl]carbamate | CC(C)(C)N(C([O-])=O)[C@H](C(NC1=C(C=C(C=C1F)F)F)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1
reactant | carbamate | C(N)([O-])=O
product | (S)-α-Amino-4-(phenylmethoxy)-N-(2,4,6-trifluorophenyl)benzenepropanamide | N[C@H](C(=O)NC1=C(C=C(C=C1F)F)F)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H19F3N2O2
